US07964612B2
Step i. 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thieno[3,2-c]pyridine.
To a −70° C. solution of thieno[3,2-c]pyridine (21.6 g) in 400 mL of dry tetrahydrofuran under nitrogen gas was added n-butyl lithium (99.9 ml of a 1.6 molar solution in hexanes) over about 15-20 minutes keeping the temperature below −65° C. The solution became cloudy and dark brown. After 45 minutes tri-isopropyl borate (33.06 g) was added and the mixture became homogeneous. The mixture was stirred at −70 to −75° C. for 2 hours. The mixture was allowed to warm to −30° C., then a solution of pinacol in 100 mL of diethyl ether was added over 4 minutes. The reaction mixture became an orange homogeneous solution. The temperature was allowed to warm to 5° C. and held at that temperature for 1 hour. The reaction mixture was neutralized (pH 7) very slowly with 40 mL of 4M hydrochloric acid in 1,4-dioxane, keeping the temperature below 10° C. A precipitate formed. The reaction mixture was stirred for 1 hour and then the solid was collected by filtration. The solid was dried under vacuum at 40° C. for 16 hours. The dry solid (36 g) was stirred with 400 mL of water for 1.5 hours. The slurry was filtered and the solid collected. The solid was dried under a flow of air for 60 hours to give the desired product (34.5 g). 1H NMR (400 MHz, Chloroform-d) δ ppm 1.21 (s, 12 H) 7.66-7.70 (m, 1 H) 7.80 (d, J=0.78 Hz, 1 H) 8.28 (d, J=5.65 Hz, 1 H) 8.98 (d, J=0.97 Hz, 1 H).

reactant | thieno[3,2-c]pyridine | 21.6 g | S1C=CC=2C=NC=CC21 | C7H5NS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | tri-isopropyl borate | 33.06 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | pinacol | OC(C)(C)C(C)(C)O | C6H14O2
reactant | hydrochloric acid | 4M, 40 mL | Cl | ClH
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thieno[3,2-c]pyridine | 34.5 g | CC1(OB(OC1(C)C)C1=CC=2C=NC=CC2S1)C | C13H16BNO2S
